US05378714
To a mixture of 6-fluoro-3-(4-piperidinyl)-1H-indazole (438 mg, 2 mmol) and dry potassium carbonate (1.1 g, 6 mmol) in 30 ml methyl isobutyl ketone was added 3-bromo-1-propanol (276 mg, 2 mmol). The mixture was refluxed for 48 h, cooled, filtered and concentrated in vacuo. The crude product was purified by chromatography on silica gel 60 eluting with ethyl acetate:methanol (9:1, v/v). Concentration of the appropriate fractions afforded 300 mg (53%) of 3-[1-(1-hydroxyprop-3-yl)-4-piperidinyl]-6-fluoro-1 H-indazole as an oil.

reactant | 6-fluoro-3-(4-piperidinyl)-1H-indazole | 2 mmol, 438 mg | FC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14FN3
reactant | potassium carbonate | 6 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 2 mmol, 276 mg | BrCCCO | C3H7BrO
solvent | methyl isobutyl ketone | 30 ml | C(C(C)C)C(=O)C | C6H12O
product | 3-[1-(1-hydroxyprop-3-yl)-4-piperidinyl]-6-fluoro-1 H-indazole | 300 mg, 53% | OCCCN1CCC(CC1)C1=NNC2=CC(=CC=C12)F | C15H20FN3O
